US05578733
In 15 mL of methylene chloride was dissolved 5.44 g of (±)-1-(cyclohexyloxycarbonyloxy)ethyl 2-ethoxy-1-[2'-(N-triphenylmethyl-1H-tetrazol-5-yl)biphenyl-4-yl]methylbenzimidazole-7-carboxylate followed by addition of 54 mL of methanol and 8.2 mL of 1N-HCl, and the mixture was stirred at 25° C. for 2 hours. Then, 19 mL of water and 19 mL of ethyl acetate were added and the mixture was adjusted to pH 3.2 with a saturated aqueous solution of sodium hydrogen carbonate. The mixture was extracted using 19 mL of water and 54 mL of ethyl acetate and the aqueous layer was separated and extracted with 30 mL of ethyl acetate. The organic layers were combined, washed with 40 mL of water and concentrated under reduced pressure to give an oil. This oil was purified by silica gel chromatography (300 mL, methylene chloride-methanol=10:1) to provide 2.92 g of (±)-1-(cyclohexyloxycarbonyloxy)ethyl 2-ethoxy-1-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methylbenzimidazole-7-carboxylate (yield 75%).

reactant | (±)-1-(cyclohexyloxycarbonyloxy)ethyl 2-ethoxy-1-[2'-(N-triphenylmethyl-1H-tetrazol-5-yl)biphenyl-4-yl]methylbenzimidazole-7-carboxylate | 5.44 g | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=CC=C2)C(=O)OC(C)OC(=O)OC2CCCCC2 | C52H48N6O6
reactant | methanol | 54 mL | CO | CH4O
reactant | HCl | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 19 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 19 mL | O | H2O
product | (±)-1-(cyclohexyloxycarbonyloxy)ethyl 2-ethoxy-1-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methylbenzimidazole-7-carboxylate | 2.92 g, yield 75% | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OC(C)OC(=O)OC2CCCCC2 | C33H34N6O6
